US08383615B2
Reductive Amination Procedure 1: Synthesis of (S)-1-(Tetrahydro-pyran-4-yl)-azetidine-2-carboxylic acid (3-tert-butyl-isoxazol-5-yl)-amide (Example 21)
To a solution of (S)-Azetidine-2-carboxylic acid (3-tert-butyl-isoxazol-5-yl)-amide; hydrochloride (78.6 mg; 0.303 mol) in DMF (1 mL) is added tetrahydro-4H-pyran-4-one (0.056 mL; 0.606 mmol) and acetic acid (0.069 mL; 1.212 mmol). The reaction is stirred at room temperature for 50 minutes before adding sodium cyanoborohydride (57 mg; 0.909 mmol). The reaction mixture is left stifling at room temperature for 18 hours. After this time, the reaction mixture is quenched with saturated sodium bicarbonate aqueous solution and extracted with ethyl acetate twice. The organics are combined and washed with brine, dried over Na2SO4, filtered and concentrated in vacuo. Purification by flash chromatography on silica gel using methanol/methylene chloride provides the title compound, m/z 308 [M+H+].

reactant | (S)-Azetidine-2-carboxylic acid (3-tert-butyl-isoxazol-5-yl)-amide | C(C)(C)(C)C1=NOC(=C1)NC(=O)[C@H]1NCC1 | C11H17N3O2
reactant | hydrochloride | 0.303 mol, 78.6 mg | Cl | ClH
reactant | tetrahydro-4H-pyran-4-one | 0.606 mmol, 0.056 mL | O1CCC(CC1)=O | C5H8O2
reactant | acetic acid | 1.212 mmol, 0.069 mL | C(C)(=O)O | C2H4O2
reactant | sodium cyanoborohydride | 0.909 mmol, 57 mg | C(#N)[BH3-].[Na+]
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | (S)-1-(Tetrahydro-pyran-4-yl)-azetidine-2-carboxylic acid (3-tert-butyl-isoxazol-5-yl)-amide | C(C)(C)(C)C1=NOC(=C1)NC(=O)[C@H]1N(CC1)C1CCOCC1 | C16H25N3O3
